US03962249
1-(3-Phenylpropyl)-3-methyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of 1-(3-phenylpropyl)-3-methylpiperazine [b.p. 120° - 125°C (3 mmHg), dipicrate, m.p. 249° - 250°C], 2-furoyl chloride and benzene.

reactant | 1-(3-phenylpropyl)-3-methylpiperazine | C1(=CC=CC=C1)CCCN1CC(NCC1)C | C14H22N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-Phenylpropyl)-3-methyl-4-(2-furoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1CC(N(CC1)C(=O)C=1OC=CC1)C | InChI=1S/C19H24N2O2.ClH/c1-16-15-20(11-5-9-17-7-3-2-4-8-17)12-13-21(16)19(22)18-10-6-14-23-18;/h2-4,6-8,10,14,16H,5,9,11-13,15H2,1H3;1H
